US06380218B1
N-(2-Chloro-benzyl)-2-(3-methoxy-phenoxy)-nicotinamide
To a solution of 2-(3-methoxy-phenoxy)-nicotinic acid (0,300 grams, 1.224 mmole) 2-Chloro-benzylamine (0.166 grams, 1.160 mmole), and 1-hydroxybenzotriazole hydrate (0.173 grams, 1.283 mmole) in dry dimethylformamide (30 ml) was added 1-(3-dimethylamino)-propyl)-3-ethylcarbodiimide hydrochloride (0.269 grams, 1.399 mmole) and stirred over night. The mixture was diluted with 200 ml water and extracted with ethyl acetate. The combined extracts were washed with water and brine, dried over MgSO4, filtered and concentrated to give an oil that was purified by chromatography on silica eluting with 30% ethyl acetate/hexane to give an oil which solidified on standing. (0.300 g). M.P. 71-74° C.; Anal. calcd. for C20H17N2O3Cl: C, 65.13; H, 4.65; N, 7.60. Found: C, 64.94; H, 4.69; N, 7.63.

reactant | 2-(3-methoxy-phenoxy)-nicotinic acid | 1.224 mmole, 0,300 grams | COC=1C=C(OC2=C(C(=O)O)C=CC=N2)C=CC1 | C13H11NO4
reactant | 1-hydroxybenzotriazole hydrate | 1.283 mmole, 0.173 grams | O.ON1N=NC2=C1C=CC=C2
reactant | 3-ethylcarbodiimide hydrochloride | 1.399 mmole, 0.269 grams | Cl.C(C)N=C=N
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | N-(2-Chloro-benzyl)-2-(3-methoxy-phenoxy)-nicotinamide | ClC1=C(CNC(C2=C(N=CC=C2)OC2=CC(=CC=C2)OC)=O)C=CC=C1 | C20H17ClN2O3
